US07585886B2
A 1,4-dioxane solution of 250 mg of tert-butyl [(1R)-1-(1-naphthyl)ethyl]{[(3R,4S)-4-phenylpyrrolidin-3-yl]methyl}carbamate was mixed, under ice-cooling, with 0.13 ml of triethylamine and 250 mg of methyl 3-methoxy-4-{[(4-nitrophenoxy)carbonyl]amino}benzoate and stirred overnight at 80° C. The solvent was evaporated under a reduced pressure, and the residue was purified by a silica gel column chromatography (chloroform-methanol) to obtain 245 mg of methyl 4-({[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]carbonyl}amino)-3-methoxybenzoate as a colorless amorphous substance.

reactant | 1,4-dioxane | O1CCOCC1 | C4H8O2
reactant | tert-butyl [(1R)-1-(1-naphthyl)ethyl]{[(3R,4S)-4-phenylpyrrolidin-3-yl]methyl}carbamate | 250 mg | C1(=CC=CC2=CC=CC=C12)[C@@H](C)N(C(OC(C)(C)C)=O)C[C@H]1CNC[C@@H]1C1=CC=CC=C1 | C28H34N2O2
reactant | methyl 3-methoxy-4-{[(4-nitrophenoxy)carbonyl]amino}benzoate | 250 mg | COC=1C=C(C(=O)OC)C=CC1NC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C16H14N2O7
solvent | triethylamine | 0.13 ml | C(C)N(CC)CC | C6H15N
product | methyl 4-({[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]carbonyl}amino)-3-methoxybenzoate | 245 mg | C(C)(C)(C)OC(=O)N([C@H](C)C1=CC=CC2=CC=CC=C12)C[C@H]1CN(C[C@@H]1C1=CC=CC=C1)C(=O)NC1=C(C=C(C(=O)OC)C=C1)OC | C38H43N3O6
